* C:\Users\Michael\Google Drive\Studium\SS20\HLST-Praktikum-Summer-2020\simulations\7_Leistungsendstufe\rückkopplung\AudioAmp.asc
V1 N017 0 -15
R1 0 N014 1.33k
Q1 N014 N014 N015 0 BC547B
Q2 N013 N014 N016 0 BC547B
RE3 N015 N017 100
RE4 N016 N017 100
Q§T2 N006 N007 N013 0 BC547B
Q§T1 N004 UN N013 0 BC547B
V3 N008 0 SINE(0 33e-3 10000) AC 1 180
V4 N001 0 15
Q§T3 N004 N004 N002 0 BC557B
Q§T4 N006 N004 N003 0 BC557B
RE1 N001 N002 33
RE2 N001 N003 33
Q§T5 N005 N006 N001 0 BC557B
RA N010 N017 2.2k
CM N005 N006 2.63n
XU1 N001 N005 N009 TIP122
XU2 N017 N010 N009 TIP127
R2 N009 UN 39k
R3 UN 0 1k
R4 N012 N017 47
R5 N007 0 1k
C1 N007 N008 8µ
Q3 N005 N011 N010 0 BC547B
R6 N005 N011 1545.8
R7 N011 N010 654.2
.model NPN NPN
.model PNP PNP
.lib C:\Users\Michael\Documents\LTspiceXVII\lib\cmp\standard.bjt
* .op
.tran 0 10ms 0 0.1u
;ac dec 10 1 1Meg
.four 10kHz V(n009)
.lib TIP122.lib
.lib TIP127.lib
.backanno
.end
